US04536508
Ethyl 4-[3-(1-piperidinylmethyl)phenoxy]butanoate
A mixture of 3-(1-piperidinylmethyl)phenol (11.2 g) sodium hydride (1.5 g) and ethyl 4-bromobutyrate (11.7 g) in dimethylformamide (60 ml) was stirred at 25° during 20 h. The mixture was poured onto ice (300 g) and extracted with ethyl acetate (3×100 ml). The combined extracts were distilled to give the title compound as a colourless oil (16.9 g) b.p. 250°, 0.1 mm; tlc System B, Rf 0.9.

reactant | 3-(1-piperidinylmethyl)phenol | 11.2 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | ethyl 4-bromobutyrate | 11.7 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[3-(1-piperidinylmethyl)phenoxy]butanoate | 16.9 g | N1(CCCCC1)CC=1C=C(OCCCC(=O)OCC)C=CC1 | C18H27NO3
